US07714126B2
The intermediate, cyclopropyl-(5-nitro-pyridin-2-yl)-amine, from the above procedure, was methylated with methyl iodide. To a 2 mL microwave vial was added cyclopropyl-(5-nitro-pyridin-2-yl)-amine (146 mg, 0.812 mmol), DMF (2 mL), potassium carbonate (224 mg, 1.62 mmol), and the MeI (56 μl, 0.893 mmol). The mixture was heated by microwave for two 10 min increments at 200° C. using a Personal Chemistry, Emrys Optimizer. Then followed addition of another portion of MeI (56 μL, 0.893 mmol) microwave at 200° C. for 10 min and then conventional heating at 70° C. for 15 hr. At the end of this period a third addition of MeI (56 μL, 0.893 mmol) took place and the mixture was heated by microwave once more for 10 min at 200° C. The reaction mixture was then concentrated to dryness, suspended in ethyl acetate (100 mL) and washed with water (100 mL) two times and one time with brine. The aqueous layers were combined and extracted once with ethyl acetate (50 mL). The combined organic layer was washed once with brine (100 mL), concentrated, supported onto silica gel, and purified by flash chromatography using the Analogix system with a 12 g Silicycle silica gel column with increasing concentrations of ethyl acetate in hexanes (20 mL/min, equilibrate with 0%, 0 to 5 min: 0%; 5 to 25 min: 0 to 30%; 25-45 min: 30%). The appropriate fractions were collected and dried to afford 90 mg of cyclopropyl-methyl-(5-nitro-pyridin-2-yl)-amine, a yellow solid (yield 57%). LCMS calcd. for C9H11N3O2 (m/e) 193, observed 194 (M+H). This intermediate nitropyridyl compound was then reduced, as described in the preparation of cyclopentyl-pyridine-2,5-diamine above, to afford N2-cyclopropyl-N2-methyl pyridine-2,5-diamine. LCMS calcd. for C9H13N3 (m/e) 163, observed 164 (M+H).

reactant | cyclopropyl-(5-nitro-pyridin-2-yl)-amine | C1(CC1)NC1=NC=C(C=C1)[N+](=O)[O-] | C8H9N3O2
reactant | methyl iodide | CI | CH3I
reactant | cyclopropyl-(5-nitro-pyridin-2-yl)-amine | 0.812 mmol, 146 mg | C1(CC1)NC1=NC=C(C=C1)[N+](=O)[O-] | C8H9N3O2
reactant | potassium carbonate | 1.62 mmol, 224 mg | C([O-])([O-])=O.[K+].[K+]
reactant | MeI | 0.893 mmol, 56 μl | CI | CH3I
reactant | MeI | 0.893 mmol, 56 μL | CI | CH3I
reactant | MeI | 0.893 mmol, 56 μL | CI | CH3I
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | cyclopropyl-methyl-(5-nitro-pyridin-2-yl)-amine | 90 mg | C1(CC1)N(C1=NC=C(C=C1)[N+](=O)[O-])C | C9H11N3O2
